US07868036B2
X 2-Methyl -2-(tetrahydro-pyran-4-yl)-propionic acid
A solution of 0.795 g of 2-methyl-2-(tetrahydro-pyran-4-yl)-propionic acid ethyl ester in 3 ml of ethanol is admixed with 3 ml of a 40% aqueous potassium hydroxide solution and then heated to reflux. After 4 hours, the reaction mixture is cooled to room temperature and the ethanol removed in vacuo. The remaining aqueous solution is acidified (pH 2-3) with 4M HCl and then extracted with tert-butyl methyl ether (2×). The combined organic layers are washed with water and brine, dried over sodium sulphate and concentrated by evaporation to provide the crude title compound as a yellow solid. Rf=0.10 (1:3 EtOAc-heptane).

reactant | 2-methyl-2-(tetrahydro-pyran-4-yl)-propionic acid ethyl ester | 0.795 g | C(C)OC(C(C)(C1CCOCC1)C)=O | C11H20O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-Methyl -2-(tetrahydro-pyran-4-yl)-propionic acid | CC(C(=O)O)(C)C1CCOCC1 | C9H16O3
